US05310748
Part A. A solution of 2-(aminomethyl)pyridine (4.07 g, 37.6 mmol) and triethylamine (7.50 mL, 53.8 mmol) in tetrahydrofuran (100 mL) was cooled to 0° C., then treated with a solution of 5-bromovaleryl chloride (5.00 mL, 37.6 mmol) in tetrahydrofuran (20 mL) dropwise. After stirring for 12 hours, the mixture was poured into water (150 mL) and extracted with methylene chloride (2×150 mL). The extracts were combined, dried over anhydrous magnesium sulfate, filtered and evaporated to afford the oily product, N-(2-pyridylmethyl)-5-bromopentanamide (9.44 g, 34.8 mmol, 93%).

reactant | 2-(aminomethyl)pyridine | 37.6 mmol, 4.07 g | NCC1=NC=CC=C1 | C6H8N2
reactant | triethylamine | 53.8 mmol, 7.50 mL | C(C)N(CC)CC | C6H15N
reactant | 5-bromovaleryl chloride | 37.6 mmol, 5.00 mL | BrCCCCC(=O)Cl | C5H8BrClO
reactant | water | 150 mL | O | H2O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | N-(2-pyridylmethyl)-5-bromopentanamide | 34.8 mmol, 9.44 g, 93% | N1=C(C=CC=C1)CNC(CCCCBr)=O | C11H15BrN2O
